Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:4],1.70735484421
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8].[C:9](=[O:10])([H:11])[H:12]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([O:10])([H:11])[H:12],-0.8053881470190001
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:6],1.74767012852
[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.702095152869999
[C:4]([O:5][H:6])([O:7][H:8])=[C:9]([H:10])[H:11].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])([O:7][H:8])[C:9]([H:10])[H:11],-2.65325341131
[C:4]#[C:5][H:6].[H:1][C:2](=[C:3]=[C:8]([H:9])[O:10][H:11])[H:7]>>[H:1][C:2]#[C:3]/[C:4]([C:5]([H:6])[H:7])=[C:8](\[H:9])[O:10][H:11],-3.58522449275
[H:10].[H:1][O:2][C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],-1.97267197769
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[C:7])[C:9]([H:10])([H:11])[H:12],3.97107962047
[C:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[H:8]>>[C:1].[O:2]=[C:3][O:4][C:5]([H:6])([H:7])[H:8],2.43143854745
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],1.48419771711
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][H:9].[O:1],8.397457998450001
[C:5]([H:6])[H:7].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7],-7.045717580419999
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[C:3]#[C:4][H:5].[H:1][C:2]([H:6])=[C:7]=[C:8]([H:9])[H:10],2.76390275098
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9]>>[H:1].[O:2]=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9],0.851623154076
[H:1][C:2]=[C:3]([H:4])[H:5].[O:6]=[C:7]=[C:8]([H:9])[H:10]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],3.08279056858
[C:1]#[C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-5.15651662578
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[C:3]([H:4])[H:5].[O:1]=[C:2][C:6]([O:7][H:8])=[C:9]([H:10])[H:11],5.386210708969999
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2][C:3]([H:4])=[C:5][H:6],5.94292103906
[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2](=[O:3])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.0956819859
[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]([H:4])=[C:11]([H:12])[H:13]>>[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13],-2.50170959794
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[O:10][H:11]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:10][H:11].[O:9],7.65208844361
[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:6]([H:7])[H:8].[H:1][C:2]#[C:3][C:4]([H:5])[C:9]([H:10])([H:11])[O:12][H:13],4.6841310351
[C:1]#[C:2][C:3](=[O:4])[O:5][H:6]>>[C:1]#[C:2].[C:3](=[O:4])[O:5][H:6],5.02227234363
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-0.77652896471
[C:5][O:6][H:7].[H:1][C:2][O:3][C:4][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][O:3]/[C:4](=[C:5]\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.91801373386
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])=[C:7][H:8].[H:9]>>[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[H:9],-5.02480868308
[O:1]=[C:2]1[C:3](=[C:4][H:5])[C@@:6]1([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-1.2138893821
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[C:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10].[H:1],3.99057172899
[C:1]#[C:2][O:3][C:4](=[C:5][H:6])[O:7][H:8]>>[C:1]#[C:2][O:3][C:4](=[C:5])[O:7][H:8].[H:6],4.81530711309
[H:7].[O:1]=[C:2]([H:3])[C:4]([C:5]#[C:6])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.90885028203
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[O:12][H:13],5.35718176381
